data/mechanism_extracts/EurJOC/10.1002_ejoc.202300477.json
{"doi": "10.1002_ejoc.202300477", "journal": "EurJOC", "is_review": false, "rxn_class_summary": "Enantioselective electrochemical 1,2-diacetoxylation of styrenes mediated by a chiral iodoarene (Ishihara-Muñiz-type iodoresorcinol-lactamide) catalyst", "mechanism_family": ["mediator_anodic", "electrocatalysis_inner_sphere", "radical_cation"], "electrochemical_role": "Anode oxidizes the chiral iodoarene catalyst (ArI) to a hypervalent I(III) species (ArI(OAc)2/ArI-OAc radical/cation), which then acts as the stoichiometric oxidant transferring two OAc groups to the styrene; direct anodic oxidation of the styrene to a radical cation is a competing background pathway leading to racemic product 3 and dimeric side-product 4", "key_intermediates": [{"name": "styrene radical cation (from direct anodic oxidation, background racemic pathway)", "smiles": null, "role": "off_pathway"}, {"name": "β-acetoxy benzylic radical (from AcOH addition to styrene radical cation)", "smiles": null, "role": "off_pathway"}, {"name": "β-acetoxy benzylic cation (further oxidation, gives rac-3 after AcOH trap)", "smiles": null, "role": "off_pathway"}, {"name": "dimeric distonic radical cation leading to side-product 4", "smiles": null, "role": "off_pathway"}, {"name": "ArI(•)-OAc (anodically generated iodine(II) radical intermediate of chiral catalyst)", "smiles": null, "role": "transient"}, {"name": "ArI(OAc)2 (chiral hypervalent iodine(III) diacetate, active enantioselective oxidant)", "smiles": null, "role": "reactive"}, {"name": "styrene–I(III) adduct / acetoxy-iodonium intermediate that delivers OAc enantioselectively", "smiles": null, "role": "transient"}], "electron_flow": "The anode oxidizes the chiral iodoarene (S,S)-1 stepwise in the presence of AcOH to give a chiral λ3-iodane ArI(OAc)2; this I(III) species then engages styrene to deliver two acetoxy groups enantioselectively, regenerating ArI. A competing direct anodic SET oxidation of styrene to its radical cation produces racemic 3 and dimer 4.", "rate_determining_step": "Anodic oxidation of the iodoarene catalyst to the I(III) state (catalyst E_p/2 ~2.0 V vs Fc+/Fc is at the high end of the electrochemical window, identified as the key obstacle)", "probe_reagents": [{"name": "glassy carbon anode (vs graphite)", "smiles": null, "purpose": "redox_probe", "observation": "Switching from graphite to glassy carbon anode changed yields and ee (e.g. 3a: 23%/84% ee → 71%/56% ee; 3c: 19%/78% ee → 30%/10% ee; 3e: 36%/81% ee → 40%/28% ee; 3j: 15%/33% ee → 31%/3% ee), showing electrode material modulates competition between catalyst-mediated enantioselective pathway and direct styrene oxidation"}], "evidence_types_used": ["cyclic_voltammetry", "isolation_of_intermediate", "other"], "evidence_strength": "weak", "notes": "Two competing mechanisms are presented in Scheme 4: (A) direct anodic oxidation of styrene generating a radical cation that is trapped by AcOH, oxidized further to a cation, and trapped again to give racemic 3 (with a dimeric C–C coupled side-product 4) — based on Schäfer's work; (B) the desired enantioselective pathway via anodically generated chiral I(III) species (ArI(OAc)2) that transfers two OAc groups to styrene — based on Ishihara/Muñiz precedent. Pathway B is the favored/intended mechanism. The authors note the catalyst's high oxidation potential (~2.0 V vs Fc+/Fc) is the main reason direct styrene oxidation competes and ee is moderate; this suggests the Ishihara–Muñiz iodoresorcinol-lactamide scaffold is not ideal for electrochemistry. No radical traps, KIE, or DFT were performed; mechanism is proposed by analogy to literature."}
